US07432258B2
b) (1R)-1-(4-bromophenyl)-2-(4-morpholinyl)ethanol
(2R)-2-(4-Bromophenyl)oxirane crude (250 g) was added to morpholine (8 mL, 1 mol) in 100 mL CH2Cl2 solution at 0° C. with magnetic stirring. Montmorillonite K10 clay (20 g) was added portionwise to the brown mixture and the resulting dark brown mixture was maintained under argon for 60 h at room temperature with magnetic stirring. The clay was filtered off and the filtrate was concentrated to a brown oil. The oil was loaded onto a 3 inch plug of silica gel. 12 L of 30% EtOAc/ Hexane was used to elute off less polar impurities and then 40 L of 30%-40% EtOAc/Hexane with 1% ammonia was used to elute off the desired product. The fractions were combined, concentrated, and then crystallized from Et2O. The white crystals were filtered and dried to yield the title compound (109 g, 41.6%). MS (ES) m/e 287 [M+H]+. Chiral HPLC analysis (Chiralpak AD-RH, 5 micron, 150×4.6 mm, mobile phase: 50% CH3CN/50% aqueous borate buffer (pH 9.0), 0.50 mL/min, UV 220 nm, 5 uL inj in MeOH) confirmed the product is a single enantiomer (>99% ee).

reactant | (2R)-2-(4-Bromophenyl)oxirane | BrC1=CC=C(C=C1)[C@H]1OC1 | C8H7BrO
reactant | morpholine | 1 mol, 8 mL | N1CCOCC1 | C4H9NO
reactant | Montmorillonite K10 | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (1R)-1-(4-bromophenyl)-2-(4-morpholinyl)ethanol | 109 g, 41.6% | BrC1=CC=C(C=C1)[C@H](CN1CCOCC1)O | C12H16BrNO2
